US05438052
Methyl 7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxylate (500 mg) (2.23 mmol) are suspended in 100 ml of absolute methanol. 2.95 mg (8.9 mmol) of hydroxylamine are added within 4 days while stirring. The reaction mixture is acidified (pH 6) with 3N aqueous hydrochloric acid. The product is filtered off under suction and washed in succession with water, methanol and diethyl ether. There are obtained 540 mg of N-hydroxy-7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxamide as yellow crystals of melting point 178°-179° C.

reactant | Methyl 7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 2.23 mmol, 500 mg | SC1=CC(=NC=2N1N=C(N2)C)C(=O)OC | C8H8N4O2S
reactant | hydroxylamine | 8.9 mmol, 2.95 mg | NO | H3NO
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-hydroxy-7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxamide | 540 mg | ONC(=O)C1=NC=2N(C(=C1)S)N=C(N2)C | C7H7N5O2S
